US07186734B2
A mixture of 4-bromomethyl-5-butyl-6-phenyl-pyrimidine (86 mg), (2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-(3-ethoxy-benzyl)-amine (93 mg, 0.310 mmol), and K2CO3 (195 mg, 1.4 mmol) in CH3CN (2.0 mL) is stirred at reflux for 1 h and at room temperature for 16 hours. The reaction mixture is then diluted with CH2Cl2 and filtered. The filtrate is concentrated, and the residue purified by preparative TLC, developing with 2:1 hexanes-EtOAc (+0.5% Et3N). The band containing product affords pure (5-butyl-6-phenyl-pyrimidin-4-ylmethyl)-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-(3-ethoxy-benzyl)-amine. 1H NMR (CDCl3, 300 MHz) δ 8.98 (s, 1H), 7.42 (m, 5H), 7.19 (t, J=8.0 Hz, 1H), 6.92–6.73 (m, 6H), 4.22 (s, 4H), 4.01 (q, J=6.9 Hz, 2H), 3.76 (s, 2H), 3.60 (s, 2H), 3.54 (s, 2H), 2.70–2.64 (m, 2H), 1.41 (t, J=6.9 Hz, 3H), 1.09–0.99 (m, 2H), 0.91 (sext, J=7.2 Hz, 2H), 0.61 (t, J=7.2 Hz, 3H) ppm. MS: m/z 524 [M+1].

reactant | 4-bromomethyl-5-butyl-6-phenyl-pyrimidine | 86 mg | BrCC1=NC=NC(=C1CCCC)C1=CC=CC=C1 | C15H17BrN2
reactant | (2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-(3-ethoxy-benzyl)-amine | 0.310 mmol, 93 mg | O1CCOC2=C1C=CC(=C2)CNCC2=CC(=CC=C2)OCC | C18H21NO3
reactant | K2CO3 | 1.4 mmol, 195 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 2.0 mL | CC#N | C2H3N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (5-butyl-6-phenyl-pyrimidin-4-ylmethyl)-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-(3-ethoxy-benzyl)-amine | C(CCC)C=1C(=NC=NC1C1=CC=CC=C1)CN(CC1=CC(=CC=C1)OCC)CC1=CC2=C(OCCO2)C=C1 | C33H37N3O3
